US04090026
Equimolar quantities of 2-methoxymethyl(1,3,4)thiadiazole and cysteamine hydrochloride were refluxed under nitrogen for 42 hours in a three-fold excess of hydrobromic acid (48%). The mixture was evaporated to dryness and the residue was dissolved in water. The solution was adjusted to pH 11 by the addition of IRA 400(OH-) and applied to a column of CG50(H+) which was eluted with dilute acetic acid. The eluate was evaporated to give 2-(2-(1,3,4)thiadiazolylmethythio)ethylamine as an oil.

reactant | 2-methoxymethyl(1,3,4)thiadiazole | COCC=1SC=NN1 | C4H6N2OS
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | hydrobromic acid | Br | BrH
product | 2-(2-(1,3,4)thiadiazolylmethythio)ethylamine | S1C(=NN=C1)CSCCN | C5H9N3S2
